US05185351
(E)-3-[2-n-Butyl-1-[(2-chlorophenyl)methyl]-4-hydroxymethyl-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoic acid, prepared as in Example 19, is esterified with 4-methoxy-benzyl alcohol to give the p-methoxybenzyl propenoate. The 4-hydroxymethyl group in acetone is oxidized using an acidic aqueous solution containing chromic acid (Jones' reagent) and the ester is hydrolyzed using 10% sodium hydroxide to give the title compound.

reactant | (E)-3-[2-n-Butyl-1-[(2-chlorophenyl)methyl]-4-hydroxymethyl-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoic acid | C(CCC)C=1N(C(=C(N1)CO)/C=C(/C(=O)O)\CC=1SC=CC1)CC1=C(C=CC=C1)Cl | C23H25ClN2O3S
reactant | 4-methoxy-benzyl alcohol | COC1=CC=C(CO)C=C1 | C8H10O2
product | p-methoxybenzyl propenoate | C(C=C)(=O)OCC1=CC=C(C=C1)OC | C11H12O3
